US06914074B2
1,5-Dichloro-8-fluoro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 1,5-dichloro-8-fluoro-6-(4-methoxyphenyl)-2-naphthol (0.15 g, 0.445 mmol) with boron tribromide (0.67 mL of 1 N solution, 0.67 mmol) according to method D to yield 0.12 g (83%) of a light yellow solid mp 206-216° C.; 1H NMR (DMSO-d6): δ 6.88 (2H, d, J=8.55 Hz), 7.34-7.39 (3H, m), 7.51 (1H, d, J=9.34 Hz), 8.21 (1H, dd, J=1.66 Hz, J=9.34 Hz), 9.74 (1H, bs), 10.99 (1H, bs); MS (ESI) m/z321/323/326 (M−H)−.

reactant | 1,5-dichloro-8-fluoro-6-(4-methoxyphenyl)-2-naphthol | 0.445 mmol, 0.15 g | ClC1=C(C=CC2=C(C(=CC(=C12)F)C1=CC=C(C=C1)OC)Cl)O | C17H11Cl2FO2
reactant | boron tribromide | 0.67 mmol, 1 N, 0.67 mL | B(Br)(Br)Br | BBr3
product | 1,5-Dichloro-8-fluoro-6-(4-hydroxyphenyl)-2-naphthol | ClC1=C(C=CC2=C(C(=CC(=C12)F)C1=CC=C(C=C1)O)Cl)O | C16H9Cl2FO2
